US06251912B1
4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide
A solution of 5.17 mL (3.65 g; 50 mmoles) of diethylamine in 20 mL of tetrahydrofuran was stirred and cooled in an ice bath, and a solution of 1.16 g (2.5 mmoles) of 4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide in 10 mL of tetrahydrofuran and 5 mL of N,N-dimethylformamide was added dropwise. After stirring for 2 hours, 45 mL of ethyl acetate and 30 mL of saturated aqueous sodium bicarbonate were added, and the layers were separated. The organic layer was extracted with 25 mL of brine, dried over sodium sulfate, and taken to an oil in vacuo. This was chromatographed on silica gel with 1:9 methanol methylene chloride to give 677 mg (59%) of the desired product, which melted at 196-199° C. Mass spectrum (m/e) M+2H 228.5.

reactant | diethylamine | 50 mmoles, 5.17 mL, 3.65 g | C(C)NCC | C4H11N
reactant | 4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 2.5 mmoles, 1.16 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CCBr)=O | C18H14Br2N4O
reactant | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 677 mg, 59% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CCN(CC)CC)=O | C22H24BrN5O
